US08048902B2
Following the procedures described in Example 36: 4-bromo-3-chlorobenzoic acid and oxalyl chloride were reacted to provide 4-bromo-3-chloro-benzoyl chloride, which was then reacted with 3-methylamino-but-2-enoic acid methyl ester to provide 2-(4-bromo-3-chloro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester. 2-(4-Bromo-3-chloro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester and hydroxylamine hydrochloride were then reacted as described in Example 36, Step 3 to provide 5-(4-bromo-3-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester, which was then hydrolyzed to 5-(4-bromo-3-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid as described in Example 36, Step 4. 5-(4-Bromo-3-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid and (R)-1-(2-chloro-phenyl)-ethanol were reacted to provide [5-(4-bromo-3-chloro-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester as described in Example 36, Step 5.

reactant | 4-bromo-3-chlorobenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 4-bromo-3-chloro-benzoyl chloride | BrC1=C(C=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
